US08211919B2
To a mixture of 1H-pyrrole-2-carboxylic acid (45.0 mg) in dichloromethane (1.8 mL) were added oxalyl chloride (0.053 mL) and one-drop of N,N-dimethylformamide at 0° C. After 15 minutes, [4-(4-pyridinyl)phenyl]amine (68.9 mg) and pyridine (0.131 mL) were added to the mixture at 0° C. and the resulting mixture was stirred at ambient temperature overnight. Water (3 mL) was added to the mixture. The precipitate was collected by filtration and washed with water (2 mL) to afford N-[4-(4-pyridinyl)phenyl]-1H-pyrrole-2-carboxamide (65.2 mg) as white crystals.

reactant | 1H-pyrrole-2-carboxylic acid | 45.0 mg | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | oxalyl chloride | 0.053 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | [4-(4-pyridinyl)phenyl]amine | 68.9 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)N | C11H10N2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
solvent | Water | 3 mL | O | H2O
solvent | pyridine | 0.131 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-pyridinyl)phenyl]-1H-pyrrole-2-carboxamide | 65.2 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1NC=CC1 | C16H13N3O
